US09289430B2
Into a 250-mL round-bottom flask, was placed a solution of 3-nitro-1H-pyrazole (10 g, 88.50 mmol, 1.00 equiv) in DMSO (100 mL), 1-iodo-3-(trifluoromethyl)benzene (29 g, 106.62 mmol, 1.20 equiv), potassium carbonate (24 g, 173.91 mmol, 1.97 equiv), copper(I) iodide (2.6 g, 13.68 mmol, 0.15 equiv), and L-proline (2.5 g, 21.74 mmol, 0.25 equiv). The resulting solution was stirred overnight at 85° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting solution was diluted with 500 mL of water, extracted with 7×200 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×200 mL of water and 2×200 mL of brine. The mixture was dried over sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (10:1-5:1) to give 14 g (62%) of 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-pyrazole as a light yellow solid.

reactant | 3-nitro-1H-pyrazole | 88.50 mmol, 10 g, 1.00 equiv | [N+](=O)([O-])C1=NNC=C1 | C3H3N3O2
reactant | 1-iodo-3-(trifluoromethyl)benzene | 106.62 mmol, 29 g, 1.20 equiv | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
reactant | potassium carbonate | 173.91 mmol, 24 g, 1.97 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | 21.74 mmol, 2.5 g, 0.25 equiv | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
catalyst | copper(I) iodide | 13.68 mmol, 2.6 g, 0.15 equiv | [Cu]I
product | 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-pyrazole | 14 g, 62% | [N+](=O)([O-])C1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F | C10H6F3N3O2
